US06030952
(a) 3-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-methyl-2,3-dihydrobenzofuran-5-yl]acrylic acid
A mixture of methyl 3-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-methyl-2,3-dihydrobenzofuran-5-yl]acrylate (330 mg, 0.79 mmol), a 2N methanolic sodium hydroxide solution (4 ml, 7.9 mmol) in THF (3 ml) is heated for 5 hours at 60° C. The mixture is acidified to pH 1 with a concentrated hydrochloric acid solution, extracted with ethyl acetate and washed with water. After drying the organic phase is concentrated in vacuo at 40° C. in a rotary evaporator, the product is purified by flash chromatography on a silica column.

reactant | methyl 3-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-methyl-2,3-dihydrobenzofuran-5-yl]acrylate | 0.79 mmol, 330 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1(COC2=C1C=C(C=C2)C=CC(=O)OC)C)C | C27H32O3
reactant | sodium hydroxide | 7.9 mmol, 2N, 4 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 3-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-methyl-2,3-dihydrobenzofuran-5-yl]acrylic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1(COC2=C1C=C(C=C2)C=CC(=O)O)C)C | C26H30O3
